US07087626B2
4-[2-(6-Methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-phenol
To a solution of 3-(4-methoxy-phenyl)-2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole (72 mg, 0.24 mmol) in methylene chloride (1 mL) is added boron tribromide (0.3 mL). The solution is stirred at ambient temperature for 3 h, then quenched with methanol. The mixture is concentrated in vacuo to a reddish solid. The solid is passed through a silica gel cartridge (methylene chloride, ethyl acetate, then acetone). The appropriate methylene chloride fractions are concentrated in vacuo to yield 4 mg (5.8%) of the title compound. The more polar fractions are concentrated in vacuo then treated with aqueous ammonium chloride and methanol. The mixture is concentrated in vacuo and the residue purified on a silica cartridge eluting as above. Appropriate fractions are combined and concentrated in vacuo to yield an additional 49 mg (71%) of the title compound.

reactant | 3-(4-methoxy-phenyl)-2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | 0.24 mmol, 72 mg | COC1=CC=C(C=C1)C1=C2N(N=C1C1=NC(=CC=C1)C)CCC2 | C19H19N3O
reactant | boron tribromide | 0.3 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(6-Methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-phenol | 4 mg, 5.8% | CC1=CC=CC(=N1)C=1C(=C2N(N1)CCC2)C2=CC=C(C=C2)O | C18H17N3O
